US09127003B2
(R)-(3-Aminopiperidin-1-yl)(2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazol-5-yl)methanone, hydrochloride
(R)-(3-aminopiperidin-1-yl)(2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazol-5-yl)methanone (2.365 g) was dissolved in DCM (6 ml) and HCl (2M in diethyl ether) (2.735 ml, 5.47 mmol) was added to the solution. The solvent was then removed under nitrogen and concentrated under vacuum to afford the title compound as a white solid (2.43 g).

reactant | (R)-(3-aminopiperidin-1-yl)(2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazol-5-yl)methanone | 2.365 g | N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC)C)C(=C1)OC | C24H28N6O2
reactant | HCl | 5.47 mmol, 2M, 2.735 ml | Cl | ClH
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | (R)-(3-Aminopiperidin-1-yl)(2-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazol-5-yl)methanone, hydrochloride | 2.43 g | Cl.N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC)C)C(=C1)OC | InChI=1S/C24H28N6O2.ClH/c1-4-30-19(12-15-7-5-9-26-22(15)30)23-27-18-11-16(13-20(32-3)21(18)28(23)2)24(31)29-10-6-8-17(25)14-29;/h5,7,9,11-13,17H,4,6,8,10,14,25H2,1-3H3;1H/t17-;/m1./s1
